US04550105
To a solution of 3.2 g of 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid methyl ester in 50 ml of ethanol is added under ice-cooling and stirring a solution of 2.23 g of potassium hydroxide (85%) in 20 ml of water, and the mixture is stirred for 5 hours at room temperature, followed by concentration under reduced pressure. The concentrate is dissolved in 30 ml of water, and washed twice with 30 ml each portion of ethyl acetate, followed by addition of activated charcoal. The charcoal is removed by filtration and the filtrate is then adjusted to pH 2 with 1N-HCl, and the resulting crystals are collected by filtration, washed with water, hexane and ether in this order to yield 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid, m.p. 170°-171° C.(decomp.).

reactant | 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid methyl ester | 3.2 g | COC(\C(=N/OCCC)\C=1N=C(SC1)NC(CCl)=O)=O | C11H14ClN3O4S
reactant | potassium hydroxide | 2.23 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-(n-propoxyimino)acetic acid | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OCCC | C10H12ClN3O4S
